US08168666B2
Preparation of 3-[4-[4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)-2-propylphenyloxy]butyl]-1,5,5-trimethylimidazolidine-2,4-dione
Hydrochloric acid-ethanol (2 mol/L, 2 mL) was added to 3-[4-[4-[1,1,1,3,3,3-hexafluoro-2-(methoxymethyl)oxypropan-2-yl]-2-propylphenyloxy]butyl]-1,5,5-trimethylimidazolidine-2,4-dione (55.7 mg, 0.11 mmol), followed by stirring at room temperature for one hour. The reaction solution was concentrated under reduced pressure, and the resulting residue was purified by silica gel preparative thin-layer chromatography (hexane:ethyl acetate=2:1) to obtain 41.8 mg of the title compound (yield: 82%) as a colorless crystalline powder.

reactant | Hydrochloric acid ethanol | 2 mol/L, 2 mL | Cl.C(C)O
reactant | 3-[4-[4-[1,1,1,3,3,3-hexafluoro-2-(methoxymethyl)oxypropan-2-yl]-2-propylphenyloxy]butyl]-1,5,5-trimethylimidazolidine-2,4-dione | 0.11 mmol, 55.7 mg | FC(C(C(F)(F)F)(OCOC)C1=CC(=C(C=C1)OCCCCN1C(N(C(C1=O)(C)C)C)=O)CCC)(F)F | C24H32F6N2O5
product | 3-[4-[4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)-2-propylphenyloxy]butyl]-1,5,5-trimethylimidazolidine-2,4-dione | 41.8 mg, yield: 82% | FC(C(C(F)(F)F)(O)C1=CC(=C(C=C1)OCCCCN1C(N(C(C1=O)(C)C)C)=O)CCC)(F)F | C22H28F6N2O4
